* C:\Users\PC\OneDrive\Documenten\School\Fontys\Minor\Be creative minor\Git\Audio-DSP\LTspice\Back-end\LPF.asc
XU1 N004 N003 V+ V- N002 LT6220
R1 N001 VOUT+ 10k
R2 N005 VOUT- 10k
C1 N001 N005 4n7
C2 0 N004 1n5
C3 N002 N003 1n5
R3 N003 N001 820
R4 N004 N005 820
R5 N005 0 4.3k
V1 VOUT+ 0 SINE(2.5V 2 1K) AC 1
V2 0 VOUT- SINE(-2.5 2 1K) AC 1
V3 V+ 0 12
V4 0 V- 12
R9 +XLR N006 4k7
R10 N006 VOUT+ 1k
XU2 N008 0 V+ N009 N007 V- NC_01 N006 OPA1632 OPA1632
R8 N008 VOUT- 1k
R11 -XLR N008 4.7k
R7 N002 N001 4.3k
R6 RCA/JACK N002 22
R13 +XLR N007 39
R14 -XLR N009 39
C4 +XLR -XLR 2.2n
C5 N007 N006 680p
C6 N009 N008 680p
* DAC
* DAC
* ADC
* FPGA
* AAF
* E12 series capacitors\nE24 series resistors if E12 is not good enough
* 100k & 470k
* 1R & 4R7
* For monday during the minor unbalanced LPF with buffer:\n-Only use E12 capacitors\n-Use E12 resistors and if realy needed you can use E24 resistors but I will then ask why\n-Keep gain the same so ±1,74 peak referenced to GND\n-Make the LPF ±1dB for 20 Hz up and till 20 kHz\n-Set the cutoff frequency (-3 dB point) on around 30 kHz to 60 kHz (and if realy needed to be higher explain/show it)\n-Try to get the resistor values between 820 R and 10 kR.\n-Make sure it all looks nice and tidy on monday and is uploaded to Git \n \n-Bottom circuit is fine, but play with it so you can explain how it works\n-Why is the Vocm of the OPA1632 connected to GND? (tell me monday)\n \n-Last but not least place the blocks and lines of the block diagram on the grid ;)
* -3 db=54 kHz with an flatness of ±0.5 dB in the audio band (20 Hz up and till 20 kHz)
.tran 1
* .ac dec 1 1k 1MEG
* +-0.5dB in audio band\nfC=40kHz
.lib LTC4.LIB
.lib mylib\OPA1632.sub
.backanno
.end
