********************************************************************************************************
*
* Nexperia BUK6Y24-40P
* Polarity P - Channel
* Ratings 40V/19.0mOhm/39A
* Revision N#: 2.0
* Created on 2020-12-23 17:24:00
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT BUK6Y24-40P D G S

* Package impedance
LD D 5 30.00p
RLD2 D 5 75.40m
RLD1 5 4 6.000u
LG G 1 1.509n
RLG G 1 3.792
LS S 8 800.0p
RLS2 S 8 2.011
RLS1 8 7 620.0u

* Drain,gate and source resistances
RD 3 4 15.81m TC= 2.493m,1.000n
RG 1 20 11.00
Don 2 20 D_DBD2
Rgoff 1 2 180
RS 6 7 1.000u

* Body Diode
RBD 9 4 5.751m TC= 4.000m,23.00u
DBD 9 7 D_DBD
RDS 7 4 23.81G TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 228.3G
CGS 2 6 1.150n

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 2 3 VALUE {V(13,0)*I(V11)}
E11 12 0 2 3 1
E12 13 0 TABLE {V(12)}
+ (-10.0,2019.0)
+ (-3.21,2019.0)
+ (0.01,449.9)
+ (0.1,433.0)
+ (0.2,411.4)
+ (0.5,356.0)
+ (1.0,292.9)
+ (2.0,233.3)
+ (3.0,202.9)
+ (4.0,183.3)
+ (5.0,169.0)
+ (6.0,157.9)
+ (8.0,141.6)
+ (10.0,129.9)
+ (12.0,121.0)
+ (15.0,110.9)
+ (20.0,99.48)
+ (30.0,86.67)
+ (40.0,79.95)

.MODEL MINT PMOS Vto= -2.996 Kp= 57.03 Nfs= 1.024T Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 572.0

.MODEL D_DBD D Bv= 45.20 Ibv= 250.0u Rs= 1.000u Is= 764.4f
+ N= 1.000 M= 434.2m VJ= 572.7m Fc= 500.0m Cjo= 883.0p Tt= 18.50n

.MODEL D_DBD2 D Bv= 45.20 Ibv= 250.0u Rs= 1.000u Is= 764.4f
+ N= 1.000 M= 434.2m VJ= 572.7m Fc= 500.0m Cjo= 883.0p Tt= 18.50n
.ENDS BUK6Y24-40P

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************