* C:\Users\PC\OneDrive\Documenten\School\Fontys\Minor\Be creative minor\Git\Audio-DSP\LTspice\Front-end\VU-meter.asc
XU1 N009 N001 +15VD -15VD N006 LT6220
V1 +15VD 0 15
V2 0 -15VD 15
XU2 N007 N002 +15VD -15VD VRECT LT6220
R1 N009 Audio 100k
C1 N001 N006 47p
D1 N001 N006 1N4148
D2 N006 N007 1N4148
R2 N007 0 10k
R3 N002 N001 10k
R4 VRECT N002 10k
V3 Audio 0 SINE(0 2 1k)
V4 +5VD 0 5
R8 VRECT N012 3k9
R10 N012 N014 2k
R12 N014 N016 1k
R13 N016 0 1k
XU3 +200mV_REF VRECT +5VD 0 G1 LT1720
XU4 +200mV_REF N012 +5VD 0 G2 LT1720
XU5 +200mV_REF N014 +5VD 0 O1 LT1720
XU6 +200mV_REF N016 +5VD 0 R1 LT1720
R5 +200mV_REF 0 1k
R7 +5VD +200mV_REF 24k
C2 +200mV_REF 0 10µ
D3 +5VD N008 NSCW100
D4 +5VD N013 NSCW100
D5 +5VD N015 NSCW100
D6 +5VD N017 NSCW100
R9 N008 G1 330
R11 N013 G2 330
R14 N015 O1 330
R15 N017 R1 330
XU7 N010 N004 +15VD -15VD N005 LT6220
R16 N004 N003 150k
R17 N005 N004 10k
R6 N010 N011 150k
R18 0 N010 10k
V5 0 N011 SINE(0 12 1k)
V6 N003 0 SINE(0 12 1k)
.model D D
.lib C:\Users\PC\OneDrive\Documenten\LTspiceXVII\lib\cmp\standard.dio
.tran 0 100m 98m
* Precision rectifier
* LPF
* 1.74V     clipping\n870mV   -6dB\n435mV  -12dB\n218mV  -18dB
* TL072
* LM339
* Difference amplifier with gain of 0,0714
* TL072
.lib LT1720.sub
.lib LTC4.LIB
.backanno
.end
