* C:\Users\mgurl\Documents\GitHub\Audio-DSP\Power\LTspice simulations\Buck converters\8V-buck.asc
V1 Supply 0 24 Rser=100m
XU1 N002 N006 N007 0 N001 N003 N005 Supply LM25085_TRANS
R1 N006 Supply 47k
C1 Supply 0 10µ Rser=20m
C2 Supply N005 470n
C3 Supply N002 1n
R2 Supply N002 1.05k
R3 N001 Supply 10m
R4 Vout N008 22k
R5 N008 N007 3.3k
D1 0 N004 1N5819
R§load Vout 0 16
L1 N004 Vout 15µ Rser=20m
C5 Vout N007 2.2n
C7 Vout 0 10µ Rser=20m
C8 Supply 0 10µ Rser=20m
C9 Vout 0 10µ Rser=20m
C4 Vout 0 10µ Rser=20m
C6 Vout 0 10µ Rser=20m
C10 Vout 0 10µ Rser=20m
R6 N007 0 4.7k
XU2 N004 N003 N001 FQP7P06
.model D D
.lib C:\Users\mgurl\Documents\LTspiceXVII\lib\cmp\standard.dio
.OPTIONS nomarch
.options plotwinsize 0
.options numdgt 7
;options maxstep 10n
.tran 10m startup
.meas tran x pp v(Vout)
* E24 resistors were used to get the desired voltage
* TODO:\n-Calculate Rt (with our MOSFET)\n-Check inductance\n-Add extra ripple feedback network to furthur supress output ripple
.lib lm25085_trans.lib
.lib Mylib\FQP7P06.lib
.backanno
.end
